US06727264B1
N-(3-{1-[(1-[1,1′-BIPHENYL]-2-YL-1H-INDOL-5-YL)METHYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure C and Scheme Q1, with CuBr in place of Cu, using 2-iodo-1,1′-biphenyl and N-{3-[1-(1H-indol-5-ylmethyl)-4-piperidinyl]phenyl}-2-methylpropanamide: ESMS m/e: 528.3 (M+H)+.

reactant | 2-iodo-1,1′-biphenyl | IC1=C(C=CC=C1)C1=CC=CC=C1 | C12H9I
reactant | N-{3-[1-(1H-indol-5-ylmethyl)-4-piperidinyl]phenyl}-2-methylpropanamide | N1C=CC2=CC(=CC=C12)CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C24H29N3O
product | N-(3-{1-[(1-[1,1′-BIPHENYL]-2-YL-1H-INDOL-5-YL)METHYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | C1(=C(C=CC=C1)N1C=CC2=CC(=CC=C12)CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C36H37N3O
